US04734501
Synthesis of 1-cyclopentyl-6-methylergoline-8-carboxylic acid
To a 500 ml, three-neck round bottom flask was added 10.0 g (33.9 mmol) of 92% pure 9,10-dihydrolysergic acid, 11.72 g (180.0 mmol) of 86% pure powdered potassium hydroxide and 150 ml of DMSO. The mixture was stirred for 15 minutes and 10.22 g (42.6 mmol) of p-toluenesulfonic acid, cyclopentyl ester was added. The mixture was stirred at room temperature for about 20 hours and an additional 3.11 g (13.0 mmol) of p-toluenesulfonic acid, cyclopentyl ester was added. The mixture was stirred for an additional two hours and was poured into 750 ml of ice water. The mixture was washed twice with 200 ml portions of ethyl acetate and the pH of the aqueous phase was lowered to about 5 with glacial acetic acid. The mixture was cooled and the precipitated solid was collected by vacuum filtration. The solid was washed with water and dried under vacuum to provide 10.05 g of the title compound having a purity of 96.3 %. Yield 85.2%. Exact mass: theory 339.20725; found 339.20633.

reactant | 9,10-dihydrolysergic acid | 33.9 mmol, 10.0 g | CN1CC(CC2C1CC3=CNC4=CC=CC2=C34)C(=O)O | C16H18N2O2
reactant | potassium hydroxide | 180.0 mmol, 11.72 g | [OH-].[K+]
reactant | p-toluenesulfonic acid, cyclopentyl ester | 42.6 mmol, 10.22 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCCC1)C | C12H16O3S
reactant | p-toluenesulfonic acid, cyclopentyl ester | 13.0 mmol, 3.11 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCCC1)C | C12H16O3S
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 1-cyclopentyl-6-methylergoline-8-carboxylic acid | 10.05 g, Yield 85.2% | C1(CCCC1)N1C=C2C[C@H]3N(CC(C[C@@H]3C=3C=CC=C1C32)C(=O)O)C | C21H26N2O2
